.SUBCKT NAND 1 2 3 4
* TERMINALS A B OUT VCC
RL	3	4	500
CL	3	0	10PF
S1	3 5	1 0 	SW
S2	5 0	2 0 	SW
.ENDS
*
.SUBCKT NOT 1 3 4
* TERMINALS A OUT VCC
RL	3	4	500
CL	3	0	10PF
*Sxxx n1 n2 nc+ nc- <model> [on,off]
S1	3 0	1 0 	SW
.ENDS
*
.SUBCKT COMP1  1 2 5
* TERMINALS: 1-INPUT+, 2-INPUT-, 5-OUTPUT
* DIFF AMP WITH HYSTERESIS
EDIFF	3	0	VALUE = { V(1) - V(2) + V(5)/500 }
* FREQUENCY RESPONSE
RP1	3	4	200
CP1	4	0	100PF
* LIMITER
EOUT	5	0	TABLE {V(4)} = (-1MV 0V) (1MV, 5V)
.ENDS
*
*
.MODEL	SW	VSWITCH(VON=3 VOFF=2 RON=10 ROFF=100K)
.model	QNOM	NPN(BF=100) 						; Ideal maximum forward beta

*
